US07838524B2
Preparation of ethyl(4-[3-tert-butyl-5-[(phenoxycarbonyl)amino]-1H-pyrazol-1-yl]phenyl)acetate
To a suspension of ethyl[4-(5-amino-3-tert-butyl-1H-pyrazol-1-yl)phenyl]acetate (10 g, 33.2 mmol) and K2CO3 (9.17 g, 66.4 mmol) in THF (300 mL) was added phenyl chloroformate (8.61 mL, 66.4 mmol), and the resulting reaction mixture was stirred at room temperature overnight. The mixture was poured into a mixture of water and EtOAc and the organic phase was separated and dried over Na2SO4, concentrated at reduced pressure to afford a brown syrup, which was purified by MPLC (0% to 20% EtOAc in hexane). The desired product was obtained as a white solid (10.6 g) in 76% yield. 1H-NMR (CD2Cl2-d2) δ 7.51-7.10 (m, 10H), 6.47 (s, 1H), 4.16 (q, J=7.1 Hz, 2H), 3.71 (s, 2H), 1.37 (s, 9H), 1.28 (t, J=7.0 Hz, 3H).

reactant | ethyl[4-(5-amino-3-tert-butyl-1H-pyrazol-1-yl)phenyl]acetate | 33.2 mmol, 10 g | C(C)OC(CC1=CC=C(C=C1)N1N=C(C=C1N)C(C)(C)C)=O | C17H23N3O2
reactant | K2CO3 | 66.4 mmol, 9.17 g | C(=O)([O-])[O-].[K+].[K+]
reactant | phenyl chloroformate | 66.4 mmol, 8.61 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl(4-[3-tert-butyl-5-[(phenoxycarbonyl)amino]-1H-pyrazol-1-yl]phenyl)acetate | 76% yield | C(C)OC(CC1=CC=C(C=C1)N1N=C(C=C1NC(=O)OC1=CC=CC=C1)C(C)(C)C)=O | C24H27N3O4
